US07414045B2
Tert-butyl benzyloxy(4-cyanobutyl)carbamate was dissolved in a solution of 4 M HCl in 1,4-dioxane and the mixture was stirred for 18 h at room temperature. The solvent was removed under reduced pressure and the residue was treated with ethyl acetate and diethyl ether. A solid formed which was washed with diethyl ether, filtered and dried under high vacuum to give 1-(benzyloxy)piperidin-2-imine hydrochloride as a pale yellow solid.

reactant | Tert-butyl benzyloxy(4-cyanobutyl)carbamate | C(C1=CC=CC=C1)ON(C(OC(C)(C)C)=O)CCCCC#N | C17H24N2O3
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(benzyloxy)piperidin-2-imine hydrochloride | Cl.C(C1=CC=CC=C1)ON1C(CCCC1)=N | InChI=1S/C12H16N2O.ClH/c13-12-8-4-5-9-14(12)15-10-11-6-2-1-3-7-11;/h1-3,6-7,13H,4-5,8-10H2;1H
